US06599917B1
f) 2-Benzoyl-6-(tert-butyldimethylsilyl)oxymethyl-3-benzyloxypyridine
116 g of 6-hydroxymethyl-2-benzoyl-3-benzyloxypyridine was dissolved in 450 ml of N,N-dimethylformamide. 100 g of imidazole and 85 g of tert-butyldimethylsilyl chloride was added thereto, followed by stirring at room temperature overnight. The solvent was removed, water was added thereto and the mixture was extracted with ethyl acetate. Further, the organic phase was washed with dilute hydrochloric acid, water, an aqueous saturated sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate and evaporated. The residue was dried, to give 141 g of the target compound.

reactant | 6-hydroxymethyl-2-benzoyl-3-benzyloxypyridine | 116 g | OCC1=CC=C(C(=N1)C(C1=CC=CC=C1)=O)OCC1=CC=CC=C1 | C20H17NO3
reactant | imidazole | 100 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 85 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | N,N-dimethylformamide | 450 ml | CN(C=O)C | C3H7NO
product | 2-Benzoyl-6-(tert-butyldimethylsilyl)oxymethyl-3-benzyloxypyridine | 141 g | C(C1=CC=CC=C1)(=O)C1=NC(=CC=C1OCC1=CC=CC=C1)CO[Si](C)(C)C(C)(C)C | C26H31NO3Si
